US04559398
136 g (2.0 moles) of imidazole in 1,000 ml of ether are initially taken, and 146 g (0.8 mole) of 2,4,6-trimethylbenzoyl chloride are added dropwise to the stirred mixture in the course of 30 minutes at from 10° to 20° C. Stirring is continued for 5 hours at room temperature, and the precipitated imidazole hydrochloride is filtered off under suction, the filtrate is evaporated down and the residue is distilled to give 116.4 g (68% of theory) of N-(2,4,6-trimethylbenzoyl)-imidazole of boiling point 128° C./0.01 mbar.

reactant | imidazole | 2.0 moles, 136 g | N1C=NC=C1 | C3H4N2
reactant | 2,4,6-trimethylbenzoyl chloride | 0.8 mole, 146 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
solvent | ether | 1,000 ml | CCOCC | C4H10O
product | N-(2,4,6-trimethylbenzoyl)-imidazole | 116.4 g, 68% | CC1=C(C(=O)N2C=NC=C2)C(=CC(=C1)C)C | C13H14N2O
